US08198466B2
Preparation of 2-cyano-7-acetoxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxy-benzofuran
A mixture of 2-bromo-7-acetoxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxybenzofuran (25 mg, 0.05 mmol) and sodium cyanide (15 mg, 0.38 mmol) in dry DMSO (1 mL) under nitrogen at room temperature was stirred for 3.5 hours (monitored by tlc), quenched with saturated ammonium chloride solution and diluted with ethylacetate (20 mL). The organic layer was separated, dried over magnesium sulfate and the solvent distilled to afford the crude material which was purified over silica gel column (eluent—Hexane: diethyl-ether 1:1 to 0:100) to afford the desired product as pale cream solid (13 mg, 65%); 1H NMR (300 MHz, CDCl3) δ: 7.29(d, 1H, J=8.71 Hz), 7.19(s, 2H, benzoyl Hs), 6.06(d, 1H, J=8.77 Hz), 5.82(b, 1H, OH), 3.99(s, 3H, OMe), 3.96(s, 3H, OMe), 3.88(s, 6H, 2×OMe).

reactant | 2-bromo-7-acetoxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxybenzofuran | 0.05 mmol, 25 mg | BrC=1OC2=C(C1C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C=CC(=C2OC(C)=O)OC | C21H19BrO8
reactant | sodium cyanide | 0.38 mmol, 15 mg | [C-]#N.[Na+]
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 2-cyano-7-acetoxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxy-benzofuran | 13 mg, 65% | C(#N)C=1OC2=C(C1C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C=CC(=C2OC(C)=O)OC | C22H19NO8
